US06348032B1
5% palladium/carbon (0.10 g) is added to a mixture of preliminarily purified N-(pyridylmethyl)-4-acetylamino-3-nitrobenzamide (1.00 g), acetic acid (8 ml), and ethanol (12 ml), and then solution is stirred for seven hours at 80° C. under a nitrogen environment. The solids are separated through filtration and the filtrate is then concentrated. Ethyl acetate is added to the residue and crystals are formed. The crystals are separated through filtration, then dried and thus, 2-methyl-5-[(2-pyridylmethyl) carbamoyl]benzimidazole (0.57 g) is obtained. 1H-NMR (CDCl3, δ): 2.52 (3H, s), 4.59 (2H, d, J=5.9 Hz), 7.26 (1H, dd, J=7.1 and 5.1 Hz), 7.33 (1H, d, J=7.8 Hz), 7.50 (1H, d, J=8.4 Hz), 7.72-7.78 (2H, m), 8.08(1H, s), 8.51 (1H, d, J=4.8 Hz), 9.04 (1H, t, J=5.8 Hz), 12.44 (1H, s).

reactant | N-(pyridylmethyl)-4-acetylamino-3-nitrobenzamide | 1.00 g | N1=C(C=CC=C1)CNC(C1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-])=O | C15H14N4O4
reactant | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
catalyst | palladium/carbon | 0.10 g | [Pd] | Pd
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 2-methyl-5-[(2-pyridylmethyl) carbamoyl]benzimidazole | 0.57 g | CC=1NC2=C(N1)C=CC(=C2)C(NCC2=NC=CC=C2)=O | C15H14N4O
